US07446222B2
5-Chloro-2-(3-methyl-butoxy)-[1,1′;2′,1″]terphenyl-3″-carboxylic acid
5-Chloro-2-(3-methyl-butoxy)-[1,1′;2′,1″]terphenyl-3″-carboxylic acid ethyl ester (45 mg, 0.106 mmol) and NaOH (excess) were heated at 60° C. in ethanol (3 ml) for 2 hrs. The mixture was then cooled to room temperature, diluted with water, acidified with HCl (1M solution) and extracted with ethyl acetate. The combined extracts were dried (MgSO4) and evaporated to yield the title compound (41 mg, 98%) as a white solid.

reactant | 5-Chloro-2-(3-methyl-butoxy)-[1,1′;2′,1″]terphenyl-3″-carboxylic acid ethyl ester | 0.106 mmol, 45 mg | C(C)OC(=O)C=1C=C(C=CC1)C=1C(=CC=CC1)C1=C(C=CC(=C1)Cl)OCCC(C)C | C26H27ClO3
reactant | NaOH | [OH-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-Chloro-2-(3-methyl-butoxy)-[1,1′;2′,1″]terphenyl-3″-carboxylic acid | 41 mg, 98% | ClC=1C=CC(=C(C1)C=1C(=CC=CC1)C1=CC(=CC=C1)C(=O)O)OCCC(C)C | C24H23ClO3
